US05545669
d) 2-[2-[3,5-Bis(trifluoromethyl)phenylsulfonamido]-4,5-dichlorophenoxy]benzoic acid
Methyl 2-[2-[N,N-bis-[3-,5-bis(trifluoromethyl)phenylsulfonyl]amino]-4,5-dichlorophenoxy]benzoate (0.4 g, 0.46 mmol) was dissolved in methanol (5 mL), a 1N solution of sodium hydroxide (3 mL, 3 mmol) was added and the mixture was stirred for 16 h at room temperature. The solvents were evaporated and the residue was acidified with dilute HCl, extracted with EtOAc, dried over anhydrous sodium sulfate, filtered and evaporated. The crude product was purified by flash chromatography (silica gel, ethyl acetate/hexane/formic acid), and then recrystallized from EtOAc/hexane to give the title compound; mp 139°-140° C.

reactant | Methyl 2-[2-[N,N-bis-[3-,5-bis(trifluoromethyl)phenylsulfonyl]amino]-4,5-dichlorophenoxy]benzoate | 0.46 mmol, 0.4 g | FC(C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)N(S(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=C(OC2=C(C(=O)OC)C=CC=C2)C=C(C(=C1)Cl)Cl)(F)F | C30H15Cl2F12NO7S2
reactant | sodium hydroxide | 3 mmol, 3 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-[2-[3,5-Bis(trifluoromethyl)phenylsulfonamido]-4,5-dichlorophenoxy]benzoic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)NC1=C(OC2=C(C(=O)O)C=CC=C2)C=C(C(=C1)Cl)Cl)(F)F | C21H11Cl2F6NO5S
